US06706663B2
Preparation of 3-[3[4-Methoxy-2-(ethylimino)-5-oxo-4-imidazolidinyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of methyl 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate (0.0820 g, 1.98 mmol), ethyl guanidine hydrochloride (0.270 g, 2.18 mmol), sodium bicarbonate (0.180 g, 2.14 mmol) and methanol is stirred overnight at reflux, cooled to room temperature and poured into water. The resultant suspension is stirred 20 minutes and filtered with cold water wash to afford the title compound as a white solid (0.610 g, 63.9%, mp 257° C.) which is identified by NMR spectral analysis.

reactant | methyl 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate | 1.98 mmol, 0.0820 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)OC)=O)C1)=O | C16H10F3N3O5S
reactant | ethyl guanidine hydrochloride | 2.18 mmol, 0.270 g | Cl.C(C)NC(=N)N
reactant | sodium bicarbonate | 2.14 mmol, 0.180 g | C([O-])(O)=O.[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-[3[4-Methoxy-2-(ethylimino)-5-oxo-4-imidazolidinyl]-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.610 g, 63.9% | COC1(NC(NC1=O)=NCC)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C19H17F3N6O4S
